US08309546B2
5-{9-(Cyclopropylmethyl)-8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
A dimethyl sulfoxide solution (0.8 ml) of 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine (76.5 mg, 0.19 mmol) and cis-2,6-dimethylpiperazine (87.5 mg, 0.77 mmol) was heated at 140° C. and stirred for 2.5 hours. The resulting mixture was left standing to cool followed by the addition of dichloromethane-methanol (10:1) and washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous sodium sulfate, the resulting mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (dichloromethane:methanol=10:1) to give the title compound (91.1 mg, 100%) as a light brown solid.

reactant | dimethyl sulfoxide | 0.8 ml | CS(=O)C | C2H6OS
reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.19 mmol, 76.5 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1 | C17H19ClN8O
reactant | cis-2,6-dimethylpiperazine | 0.77 mmol, 87.5 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | dichloromethane methanol | ClCCl.CO
product | 5-{9-(Cyclopropylmethyl)-8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 91.1 mg, 100% | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1C[C@H](N[C@H](C1)C)C)N1CCOCC1)C=1C=NC(=NC1)N | C23H32N10O
